* /Users/raffael/Desktop/EPFL Master/CHIC/simulations/Conductivity5V.asc
R1 N007 0 33k
R2 N008 N012 56k
R4 N012 P001 1k
R5 N014 0 1k
C1 P001 N014 15n
C2 0 N014 15n
R7 N013 N012 100k
R8 0 N013 1k
R9 N009 VACout 6.8k
D1 N008 N010 D1N4733
D2 N012 N010 D1N4733
V2 VDD VSS 5
R10 N011 N005 220k
R11 N011 N016 100k
R12 VDD N015 100k
R13 N017 VSS 82k
R14 N006 N001 220k
R15 N005 N001 22k
R16 N006 ECv_out 220k
C3 N001 N005 220n
D3 N001 N003 1N4148
D4 N001 N004 1N4148
D5 N003 N005 1N4148
D6 N004 N005 1N4148
R17 N002 0 {range}
R18 N016 N017 {offset}
R19 N015 N016 {22k-{offset}}
R20 N003 N002 100
R3 N009 0 {probe}
R6 N007 N008 40k
R21 DC_out ECv_out 3.9k
C4 DC_out 0 4.7µ
XU1 N014 N007 N012 VDD VSS LTC2054
XU2 N013 N009 VACout VDD VSS LTC2054
XU3 VACout N003 N004 VDD VSS LTC2054
XU4 N011 N006 ECv_out VDD VSS LTC2054
XU6 VSS VDD 0 LT6654-2.5
.model D D
.lib /Users/raffael/Library/Application Support/LTspice/lib/cmp/standard.dio
.include 1N4733.txt
*.TRAN 1ms 100ms
.param offset 16k
.param probe 500
.op
.step param range list 100 500 1k 1.5k 1.9k
.lib LT6654.lib
.lib LTC2.LIB
.backanno
.end
